US08071643B2
Step A. N-Allyl-N-(cyclohex-3-enyl)-carbamic acid tert-butyl ester
Cyclohex-3-enyl-carbamic acid tert-butyl ester (Kampferer, P.; Vasella, A. Helvetica Chimica Acta 2004, 87, 2764-2789) (3 g, 15.2 mmol) and allyl iodide (1.4 ml, 15.2 mmol) were treated overnight according to the method of Example 7 Step A. After work up and chromatography of the reaction mixture (silica, cyclohexane/ethyl acetate=10/1) the title compound (Rf=0.55, 2.0 g, 55% yield) was obtained as colorless solid.

reactant | Cyclohex-3-enyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC=CCC1)=O | C11H19NO2
reactant | allyl iodide | 15.2 mmol, 1.4 ml | C(C=C)I | C3H5I
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | N-Allyl-N-(cyclohex-3-enyl)-carbamic acid tert-butyl ester | 2.0 g, 55% yield | C(C)(C)(C)OC(N(C1CC=CCC1)CC=C)=O | C14H23NO2
